US04218448
By the method of Example 7, α-(difluoromethyl)-α-(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol is converted to α-(difluoromethyl)-α-(trifluoromethyl)-1-(1,3-dioxobutyl)-2,3-dihydro-1H-indole-5-methanol, m.p. 140°-143°, which is cyclized by heating in sulfuric acid to give 1,2-dihydro-8-[2,2,-difluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-6-methyl-4H-pyrrolo[3,2,1-ij]quinolin-4-one, m.p. 317°-318°.

reactant | α-(difluoromethyl)-α-(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol | FC(C(O)(C=1C=C2CCNC2=CC1)C(F)(F)F)F | C11H10F5NO
reactant | α-(difluoromethyl)-α-(trifluoromethyl)-1-(1,3-dioxobutyl)-2,3-dihydro-1H-indole-5-methanol | FC(C(O)(C=1C=C2CCN(C2=CC1)C(CC(C)=O)=O)C(F)(F)F)F | C15H14F5NO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 1,2-dihydro-8-[2,2,-difluoro-1-hydroxy-1-(trifluoromethyl)ethyl]-6-methyl-4H-pyrrolo[3,2,1-ij]quinolin-4-one | FC(C(C(F)(F)F)(O)C=1C=C2C(=CC(N3C2=C(C1)CC3)=O)C)F | C15H12F5NO2
